US08008298B2
(4-Methyl-tetrahydro-pyran-4-yl)-[2-(3,4,5-trimethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-methanone was prepared starting from 7-iodo-5-triisopropylsilanyl-2-(3,4,5-trimethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazine and 4-methyl-tetrahydro-pyran-4-carboxylic acid methoxy-methyl-amide following general procedures as described in these Examples. 66, to afford a pale yellow solid. M+H=412.

reactant | 7-iodo-5-triisopropylsilanyl-2-(3,4,5-trimethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazine | IC1=CN(C2=NC=C(N=C21)C2=CC(=C(C(=C2)OC)OC)OC)[Si](C(C)C)(C(C)C)C(C)C | C24H34IN3O3Si
reactant | 4-methyl-tetrahydro-pyran-4-carboxylic acid methoxy-methyl-amide | CON(C(=O)C1(CCOCC1)C)C | C9H17NO3
product | (4-Methyl-tetrahydro-pyran-4-yl)-[2-(3,4,5-trimethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-methanone | CC1(CCOCC1)C(=O)C1=CNC2=NC=C(N=C21)C2=CC(=C(C(=C2)OC)OC)OC | C22H25N3O5
